* por-ramp-rate -- stimulus half of the testbench fragment.
*
* The other half is a verbatim copy of design/netlist/temp_por_top.spice,
* appended by sim/build_tb.py to produce tb_por_ramp_rate.spice. Edit THIS
* file (or the schematics), never the generated fragment.
*
* Netlist FRAGMENT: no .include / .lib / .temp / .control / .end -- the
* harness owns those. Parameters it supplies: vdd_val, vdd_nom, temp_c.
*
* WHAT THIS EXPERIMENT SUBSTANTIATES
*
* spec/target-spec.md#por-ramp-rate: "Correct reset generation guaranteed for
* monotonic 0 -> VDD ramps with average rate between 1 V/s (slow limit) and
* 1 V/us (fast limit) ... #14 asserts at both endpoints plus one decade
* inside each, over the full grid." Four rates, each a full four-cell
* assembly DUT on its own monotonic 0 -> vdd_val ramp:
*
*   xr1   1 V/s      (slow limit)
*   xr2   10 V/s      (one decade inside the slow limit)
*   xr3   0.1 V/us = 1e5 V/s   (one decade inside the fast limit)
*   xr4   1 V/us   = 1e6 V/s   (fast limit)
*
* all FOUR run in the SAME transient, sharing one time axis, rather than as
* four separate experiment runs -- the harness has no per-manifest rate
* sweep, and running four full-assembly 81-point grids back to back would
* be four times the simulator cost of one combined run for no additional
* evidence (the four DUTs are electrically independent; sw_stat_mismatch=0
* makes cross-talk between them impossible by construction).
*
* Each DUT's ramp is a single two-point PWL, `PWL(0 0 {vdd_val/rate}
* {vdd_val})`: ngspice holds the final breakpoint's value for the rest of
* the run, so no explicit "then hold flat" segment is needed. The total
* run span (3.7 s) is sized by xr1 alone -- at 1 V/s a 3.63 V rail takes
* 3.63 s to ramp, and release typically happens mid-ramp (the release
* threshold is well under vdd_val), so 3.7 s covers the slowest corner with
* margin. xr2/xr3/xr4 finish their ramps and release in the first tens of
* milliseconds and then simply hold flat for the remainder -- ngspice's
* adaptive timestep grows once each DUT settles, so the extra 3.6+ s of
* real time these three DUTs spend idle costs little beyond xr1's own need
* for it.
*
* WHAT EACH DUT MEASURES, mapped onto the ratified row's own three clauses:
*
*   "RESETn low from 0 V throughout the ramp" -- v(resetnrN) sampled at a
*      1 V and a 2 V rail, both well below VPOR-uparrow,min = 2.47 V. Each
*      DUT's rail is rate*t by construction (a single two-point PWL from
*      the origin), so a FIXED sample time picks a FIXED rail voltage
*      independently of vdd_val: t = 1/rate is exactly 1 V and t = 2/rate
*      is exactly 2 V. Hence at=1.0/2.0 s for xr1, 0.1/0.2 s for xr2,
*      10/20 us for xr3 and 1/2 us for xr4. Slow-ramp early release is the
*      classic POR field failure, and this is the probe that would catch it.
*
*   "released once and only once ... after VDD crosses VPOR-uparrow" --
*      v(vddrN) at the instant RESETn crosses high, floored at
*      VPOR-uparrow,min = 2.47 V. At the two fast rates the ramp finishes
*      in tens of microseconds while the reset pulse runs for milliseconds,
*      so release lands at the settled rail and the floor is far from
*      binding; at 1 V/s it lands within millivolts of the threshold and
*      the floor is the real check.
*
*   "no glitch, no double pulse" -- first versus last rising crossing
*      (rise=1 vs. rise=last), bounded at 1 ns for EVERY rate including the
*      fast limit. A genuine double pulse is separated by at least one
*      reset-pulse width (>=1 ms ratified, 4.2-17.0 ms measured), so any
*      loosening of this bound into the millisecond range would pass
*      exactly the failure the row forbids.
*
* THE STARVED-LOOP WINDOW: at xr4's 1 V/us rate, design/bias_core.md's own
* full-cell-level record already measures BIAS_OK reading a false valid
* while bias_core's reference loop cannot slew fast enough (see that
* document, "The starved-loop window") -- an ALREADY-OWNED, ALREADY-TRACKED
* architecture-level tension between por-iq and por-ramp-rate's fast limit,
* assigned to a #1/#14 re-cost decision, not a fresh defect for this record
* to root-cause. None of the bounds above are relaxed to accommodate it:
* CLAUDE.md forbids relaxing a ratified target to make a result pass, so if
* the window costs the fast endpoint, this record says the endpoint is not
* met and hands the number to #1. v(xr4.vref) and v(xr4.bias_ok) at the
* release instant are recorded unchecked so the record can distinguish
* "released on a settled reference" from "released inside the false-valid
* window" without either reading being a pass/fail criterion of its own.

vr1 vddr1 0 PWL(0 0 {vdd_val} {vdd_val})
Cppr1 ptatr1 0 1p
Cpcr1 ctatr1 0 1p
Crnr1 resetnr1 0 5p
xr1 vddr1 0 ptatr1 ctatr1 resetnr1 temp_por_top

vr2 vddr2 0 PWL(0 0 {vdd_val/10} {vdd_val})
Cppr2 ptatr2 0 1p
Cpcr2 ctatr2 0 1p
Crnr2 resetnr2 0 5p
xr2 vddr2 0 ptatr2 ctatr2 resetnr2 temp_por_top

vr3 vddr3 0 PWL(0 0 {vdd_val/1e5} {vdd_val})
Cppr3 ptatr3 0 1p
Cpcr3 ctatr3 0 1p
Crnr3 resetnr3 0 5p
xr3 vddr3 0 ptatr3 ctatr3 resetnr3 temp_por_top

vr4 vddr4 0 PWL(0 0 {vdd_val/1e6} {vdd_val})
Cppr4 ptatr4 0 1p
Cpcr4 ctatr4 0 1p
Crnr4 resetnr4 0 5p
xr4 vddr4 0 ptatr4 ctatr4 resetnr4 temp_por_top
